US06660753B2
3-Benzoylbenzoic acid (226 mg, 1.0 mmol) in dichloromethane (1.5 mL) was treated with a solution of oxalyl chloride (1.5 mL of 2 M in dichloromethane, 3 mmol) and a catalytic amount of N,N-dimethylformamide. The reaction was stirred overnight at ambient temperature. The excess oxalyl chloride was removed in vacuo to afford 3-benzoylbenzoyl chloride.

reactant | 3-Benzoylbenzoic acid | 1.0 mmol, 226 mg | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
reactant | oxalyl chloride | 3 mmol, 2 M, 1.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 3-benzoylbenzoyl chloride | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)Cl)C=CC1 | C14H9ClO2
